US09162992B2
2-(2,2-Difluoro-ethoxy)-isoindole-1,3-dione (XCVIII)
N-Hydroxyphthalimide and 2,2-difluoro-ethanol were reacted as described for compound LXI in Example 27, affording XCVIII in 52% yield. 400 MHz 1H NMR (DMSO-d6, ppm) 7.92-7.85 (4H, m), 6.34 (1H, tt, J=54.4, 3.9 Hz), 4.46 (2H, td, J=14.1, 3.9 Hz).

reactant | N-Hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2,2-difluoro-ethanol | FC(CO)F | C2H4F2O
product | 2-(2,2-Difluoro-ethoxy)-isoindole-1,3-dione | 52% yield | FC(CON1C(C2=CC=CC=C2C1=O)=O)F | C10H7F2NO3
